US04221788
2-(4-chlorobenzyl)-1-methylperhydroazepine
Boil 15.5 g of 2-(α-ethoxycarbonyl-4-chlorobenzylidene)- 1-methylperhydroazepine and 110 ml of concentrated hydrochloric acid under reflux until the evolution of CO2 ceases. Cool the resulting reaction mixture to ambient temperature; then alkalize it with caustic soda solution (while cooling with ice) and extract the product with diethyl ether. Concentrate the ether phase and dry the prepared concentrate over sodium sulfate. Dissolve the residual 2-(4-chlorobenzylidene)-1-methylperhydroazepine (7.44 g) in ethyl alcohol and hydrogenate with platinum/active carbon/hydrogen. Filter the catalyst from the hydrogenated product, distil off the solvent and then distil the remainder under a high vacuum to obtain 4.4 g of the title compound with a BP of 102° to 110° at 0.003 mm of Hg.

reactant | 2-(α-ethoxycarbonyl-4-chlorobenzylidene)- 1-methylperhydroazepine | 15.5 g | C(C)OC(=O)C(C1=CC=C(C=C1)Cl)=C1N(CCCCC1)C | C17H22ClNO2
reactant | CO2 | C(=O)=O | CO2
reactant | caustic soda | [OH-].[Na+]
solvent | hydrochloric acid | 110 ml | Cl | ClH
product | 2-(4-chlorobenzyl)-1-methylperhydroazepine | 4.4 g | ClC1=CC=C(CC2N(CCCCC2)C)C=C1 | C14H20ClN
